US08217043B2
a) 4-Chloro-1-[(pyridin-2-ylmethylene)-amino]-1H-pyrrole-2-carboxylic acid methyl ester
Prepared according to the imine formation condition used in Example 18 step b) from 1-amino-4-chloro-1H-pyrrole-2-carboxylic acid methyl ester and pyridine-2-carbaldehyde in refluxing methanol for 12 h. 1H NMR (CDCl3, δ in ppm): 8.67 (dt, 1H, J=1.3 Hz, 5.0 Hz), 8.48 (s, 1H), 8.21 (dt, 1H, J=1.1 Hz, 8.4 Hz), 7.79 (td, 1H, J=1.8 Hz, 7.8 Hz), 7.36 (m, 1H, J=1.0 Hz, 5.0 Hz, 7.6 Hz), 7.30 (d, 1H, J=2.2 Hz), 6.91 (d, 1H, J=1.8 Hz), 3.86 (s, 3H).

reactant | 1-amino-4-chloro-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)N | C6H7ClN2O2
reactant | pyridine-2-carbaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
solvent | methanol | CO | CH4O
product | 4-Chloro-1-[(pyridin-2-ylmethylene)-amino]-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)N=CC1=NC=CC=C1 | C12H10ClN3O2
